US08431596B2
(3-{2-[4-(2-Pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-5-yl}-phenyl)-methanol (XX-090)
To a slurry of lithium aluminium hydride (82.6 mg, 2.12 mmol) in diethylether (10 mL) was added 3-{2-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-5-yl}-benzoic acid ethyl ester (0.50 g, 1.06 mmol) portionwise. The mixture was stirred at room temperature for 6 hrs. Water was added to quench the hydride and the aqueous layer was removed. The organic layer was concentrated in vacuo, and the crude product loaded onto an SCX column, which was washed with methanol and the product eluted with 2M ammonia in methanol, then concentrated in vacuo. Yield: 0.35 g, 76%. A small amount was purified by preparatory HPLC. RT: 2.32, MI: 430, Method: 2.

reactant | lithium aluminium hydride | 2.12 mmol, 82.6 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-{2-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-5-yl}-benzoic acid ethyl ester | 1.06 mmol, 0.50 g | C(C)OC(C1=CC(=CC=C1)C1=CC=CC=2N1N=C(N2)NC2=CC=C(C=C2)OCCN2CCCC2)=O | C27H29N5O3
reactant | Water | O | H2O
solvent | diethylether | 10 mL | C(C)OCC | C4H10O
product | (3-{2-[4-(2-Pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-5-yl}-phenyl)-methanol | N1(CCCC1)CCOC1=CC=C(C=C1)NC1=NN2C(C=CC=C2C=2C=C(C=CC2)CO)=N1 | C25H27N5O2
